US08476297B2
A 250-mL, round-bottomed flask containing a solution of 2-fluorophenethylamine (4.7 mL, 35.9 mmol) and diisopropylethylamine (6.3 mL, 35.9 mmol) in dichloromethane (35 mL) was cooled to 0° C. and treated dropwise with 4-(trifluoromethyl)benzoyl chloride (5.4 mL, 35.9 mmol) over 5 min. The ice-bath was removed after 2 h and the reaction mixture was stirred overnight. The precipitate formed was collected by filtration. The filtrate was diluted with dichloromethane (100 mL) and transferred to a separatory funnel, extracted with water (35 mL), brine (25 mL), and 1N HCl (25 mL). The dichloromethane layer was separated and formation of more precipitate was observed which was collected by filtration. The solids collected were combined and dried under vacuum to yield N-(2-fluorophenethyl)-4-(trifluoromethyl)benzamide as an off-white solid. MS (ESI pos. ion) m/z: 312 (M+H).

reactant | 2-fluorophenethylamine | 35.9 mmol, 4.7 mL | FC1=C(CCN)C=CC=C1 | C8H10FN
reactant | diisopropylethylamine | 35.9 mmol, 6.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(trifluoromethyl)benzoyl chloride | 35.9 mmol, 5.4 mL | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | N-(2-fluorophenethyl)-4-(trifluoromethyl)benzamide | FC1=C(CCNC(C2=CC=C(C=C2)C(F)(F)F)=O)C=CC=C1 | C16H13F4NO
